Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
incisional hernia
 
Major Surgical or Invasive Procedure:
1. Incisional hernia repair with mesh, open.
2. Revision of scar.

 
History of Present Illness:
Ms. ___ is a ___ year old female status post gastric bypass 
surgery. She presents with upper incisional hernia which has 
been causing her increasingly more discomfort. The hernia is 
easily reducible. She was admitted to the hospital for hernia 
repair.

 
Past Medical History:
PMH: Bipolar disorder, Morbid obesity, Uterine fibroids, Fungal 
infection of her skin, "New heart murmur", which was recently 
diagnosed and is in the process of being worked up.

PSH: Hysterectomy, Gastric bypass surgery, Cholecystectomy
 
Social History:
___
Family History:
non contributory
 
Physical Exam:
Temp 98  BP 110/60  HR 80  RR 18  
HEENT NCAT conjunctiva pink, sclera anicteric, PERRLA
Neck no adenopathy, FROM
Chest clear but decreased breath sounds at the bases
COR RRR
Abd large, soft, non tender, upper abdominal incisional hernia 
15x20 cm.
Ext large, no edema, calves soft
 
Pertinent Results:
COMPLETE BLOOD COUNT WBC RBC Hgb Hct MCV MCH MCHC RDW Plt Ct 
___ 06:05AM    10.1 3.96* 11.1* 33.7* 85 27.9 32.8 13.0 
221 Import Result 

 
BASIC COAGULATION ___, PTT, PLT, INR) Plt Ct 
___ 06:05AM    221 Import Result 

 
LAB USE ONLY 
___ 06:05AM    Import Result 

 
 
Chemistry 
RENAL & GLUCOSE Glucose UreaN Creat Na K Cl HCO3 AnGap 
___ 06:05AM    110* 10 0.6 139 4.4 ___ Import 
 

 
Brief Hospital Course:
Ms. ___ was admitted to the hospital for the aforementioned 
procedure which she tolerated well.  She returned to the PACU in 
stable condition.  Following transfer to the surgical floor she 
had problems with nausea which she stated was expected as she 
had always had GI upset with anesthesia and narcotics.  Her pain 
was initially controlled with a Dilaudid PCA which did give her 
some nausea. 

She remained on IV fluids for an additional day and was 
encouraged to ambulate frequently to hasten return of bowel 
function.  Her surgical wound was healing well without any 
evidence of erythema or drainage.

Her diet was gradually advanced to stage 5. Her oral pain 
medication was Roxicet which she took with Zofran to subdue the 
nausea but eventually she was encouraged to try Tylenol first 
for pain then Roxicet only if the Tylenol was ineffective. She 
was gradually up and ambulating on her own at which time her 
oxygen was easily weaned off.

She was discharged to home on ___ and will follow up with 
Dr. ___ in 2 weeks.
 
Medications on Admission:
1. Clindamycin 15 lotion to both axilla BID
2. Nystatin powder to affected areas daily
3. seroquel 200 mg PO qhs
4. Calcium with Vit. D 600mg/200units 1 tab BID
5. multivitamins 1 tab daily
6. ibuprofen prn
 
Discharge Medications:
1. Oxycodone-Acetaminophen ___ mg/5 mL Solution Sig: ___ MLs 
PO Q4H (every 4 hours) as needed for pain: use for pain not 
controlled with tylenol.
Disp:*250 ML(s)* Refills:*0*
2. Seroquel 100 mg Tablet Sig: One (1) Tablet PO at bedtime.  
3. Multivitamins     Tablet, Chewable Sig: One (1) Tablet, 
Chewable PO once a day.  
4. Calcium 500 + D 500 mg(1,250mg) -400 unit Tablet, Chewable 
Sig: Two (2) Tablet, Chewable PO once a day.  
5. Colace 50 mg/5 mL Liquid Sig: Ten (10)  PO twice a day.
Disp:*250 ml* Refills:*2*
6. Tylenol ___ mg Tablet Sig: Two (2) Tablet PO every four (4) 
hours as needed for pain.  
7. Zofran 8 mg Tablet Sig: One (1) Tablet PO every eight (8) 
hours as needed for nausea.
Disp:*24 Tablet(s)* Refills:*1*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
incisional hernia

 
Discharge Condition:
Mental Status: Clear and coherent
Level of Consciousness: Alert and interactive
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
are being discharged on medications to treat the pain from your 
operation. These medications will make you drowsy and impair 
your ability to drive a motor vehicle or operate machinery 
safely. You MUST  refrain from such activities while taking 
these medications.

 

 

Please call your doctor or return to the emergency room if you 
have any of the following:
 

 * You experience new chest pain, pressure, squeezing or 
 tightness.
 
* New or worsening cough or wheezing.
 
* If you are vomiting and cannot keep in fluids or your 
 medications.
 
* You are getting dehydrated due to continued vomiting, 
 diarrhea or other reasons. Signs of dehydration include dry 
 mouth, rapid heartbeat or feeling dizzy or faint when standing.
 
* You see blood or dark/black material when you vomit or have a 
 bowel movement.
 

* You have shaking chills, or a fever greater than 101.5 (F) 
 degrees or 38(C) degrees.
 
* Any serious change in your symptoms, or any new symptoms that 
 concern you. 
 
* Please resume all regular home medications and take any new 
meds 
 as ordered.  

Activity:
No heavy lifting of items ___ pounds for 6 weeks. You may 
resume moderate
exercise at your discretion, no abdominal exercises.

Wound Care:
You may shower, no tub baths or swimming. 

If there is clear drainage from your incisions, cover with 
clean, dry gauze. 
Your steri-strips will fall off on their own. Please remove any 
remaining strips ___ days after surgery.
Please call the doctor if you have increased pain, swelling, 
redness, or drainage from the incision sites.

 
Followup Instructions:
___